US04457931
(a) 2-chloropropionic acid diisopropylamide acid
Reaction of 2-chloropropionylchloride with diisopropylamine under the experimental conditions of Example 16, gives the product; b.p. 87°-88° (0.1 mm); Rf=0.67 (methanol); IR (neat) νmax: 2960, 2920, 1650, 1475, 1450, 1370, 1340, 1210, 1040, 620 cm-1 ; Cl (Schoeninger) calculated %: 18.49--Found %: 18.43.

reactant | 2-chloropropionylchloride | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | methanol | CO | CH4O
product | 2-chloropropionic acid diisopropylamide | C(C)(C)N(C(C(C)Cl)=O)C(C)C | C9H18ClNO
